US04725688
Add 5.75 g of 4-cyanophenol 10 g of 1 brom-6-methyl octane synthesized of available active amyl alcohol, 6.67 g of anhydrous potassium carbonate, 30 ml of N,N-dimethyl formamide into 100 ml four-mouth flask under nitrogen atmosphere, allow to react for 8 hours at 110° C. After the reaction, filter the insoluble matter, then extract ether. The organic layer is then washed with 5% NaOH, water and saturated salt water, then dried and evaporated to remove the ether. Then when the obtained oily matter is refined, 11.4 g of optical (s)-4-(6-methyloctyloxy)benzonitrile is obtained.

reactant | 4-cyanophenol | 5.75 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | brom-6-methyl octane | BrCCCCCC(CC)C | C9H19Br
reactant | active amyl alcohol | C(C(C)CC)O | C5H12O
reactant | potassium carbonate | 6.67 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethyl formamide | 30 ml | CN(C=O)C | C3H7NO
product | (s)-4-(6-methyloctyloxy)benzonitrile | 11.4 g | C[C@H](CCCCCOC1=CC=C(C#N)C=C1)CC | C16H23NO
